US07253192B2
E]{1-[3-(4-Trifluoromethoxy-phenyl)-prop-2-ynyl]-cyclobutyl}-methanol
In analogy to the procedure described in example 31E], reduction of 1-[3-(4-trifluoromethoxy-phenyl)-prop-2-ynyl]-cyclobutanecarboxylic acid ethyl ester with 3 equivalent of DIBAL-H (1.2 M solution in toluene) gave the title compound as yellow oil.

reactant | 1-[3-(4-trifluoromethoxy-phenyl)-prop-2-ynyl]-cyclobutanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CCC1)CC#CC1=CC=C(C=C1)OC(F)(F)F | C17H17F3O3
reactant | DIBAL-H | 1.2 M, 3 equivalent | CC(C)C[AlH]CC(C)C
product | {1-[3-(4-Trifluoromethoxy-phenyl)-prop-2-ynyl]-cyclobutyl}-methanol | FC(OC1=CC=C(C=C1)C#CCC1(CCC1)CO)(F)F | C15H15F3O2
